US07618990B2
4-Bromobenzenecarboximidamide hydrochloride (1.00 g, 4.25 mmol), prepared in the previous step, was suspended in methylene chloride (25 mL) and triethylamine (6.1 mL, 42.5 mmol) was added and the mixture was cooled to 0° C. Perchloromethyl mercaptan (0.47 g, 4.25 mmol) was added slowly, the mixture was stirred for 30 min, warmed to 25° C. and stirred 4 h. The mixture was diluted with methylene chloride, filtered through the Celite™ reagent, and concentrated. Flash chromatography (2% acetone in hexane) afforded 3-(4-bromophenyl)-5-chloro-1,2,4-thiadiazole (327 mg, 28%). HRMS: calcd for C8H4BrClN2S, 273.89671; found (EI, M+.), 273.8968; Analytical HPLC: purity 100% at 210-370 nm, 11.2 min; 100% at 272 nm, 11.2 min; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 4-Bromobenzenecarboximidamide hydrochloride | 4.25 mmol, 1.00 g | Cl.BrC1=CC=C(C=C1)C(N)=N
reactant | triethylamine | 42.5 mmol, 6.1 mL | C(C)N(CC)CC | C6H15N
reactant | Perchloromethyl mercaptan | 4.25 mmol, 0.47 g | ClC(Cl)(Cl)S | CHCl3S
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-bromophenyl)-5-chloro-1,2,4-thiadiazole | 327 mg, 28% | BrC1=CC=C(C=C1)C1=NSC(=N1)Cl | C8H4BrClN2S
